US08012976B2
tert-Butyl 4-(4-(9-(4-fluorophenyl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzyl)-2-methylpiperazine-1-carboxylate
A mixture of 4-(9-(4-fluorophenyl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde (200 mg, 0.52 mmol) and tert-butyl 2-methylpiperazine-1-carboxylate (311 mg, 1.56 mmol) in methylene chloride (10 mL) was stirred at room temperature overnight, then NaBH3CN (129 mg, 2.1 mmol) was added and the mixture was stirred for another 5 hours. Concentrated and the residue was purified by chromatography (silica gel, petroleum ether/ethyl acetate=3:1 to 1:1) to give the title compound (70 mg, yield 24%). LC-MS (ESI) m/z: 570 (M+1)+.

reactant | 4-(9-(4-fluorophenyl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde | 0.52 mmol, 200 mg | FC1=CC=C(C=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=C(C=O)C=C2 | C23H16FN3O2
reactant | tert-butyl 2-methylpiperazine-1-carboxylate | 1.56 mmol, 311 mg | CC1N(CCNC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | NaBH3CN | 2.1 mmol, 129 mg | [BH3-]C#N.[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-(4-(9-(4-fluorophenyl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzyl)-2-methylpiperazine-1-carboxylate | 70 mg, yield 24% | FC1=CC=C(C=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=C(CN3CC(N(CC3)C(=O)OC(C)(C)C)C)C=C2 | C33H36FN5O3
